US05589489
3-[1-(3,4-Dichlorophenyl)-3-(4-acetamido-4-Phenylpiperidino)propyl]-2-methyl-2,3-dihydroisoindol-1-one hydrochloride
3-(3,4-Dichlorophenyl)-3-(2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde (0.375 g) was coupled to 4-acetamido-4-phenylpiperidine (0.28 g) by a method similar to that described in Example 8. The reaction product was purified by chromatography and converted to the corresponding hydrochloride salt as described in Example 8 to afford the title compound (0.263 g); mp 185°-192° C.; MS: m/z=550(M+1); NMR(CD3SOCD3): 1.91 (s,3), 2.3 (m,2), 3.06 (s,3), 3.15 (m,2), 4.87 (d,1, J=3.5), 6.8 (d,1, J=8), 7.0 (d,1, J=1.8), 7.23 (m,1), 7.34 (m,5), 7.48 (m,2), 7.65 (m,1), 7.90 (d,1, J=7.6), 8.1 (s,1). Analysis for C31H33Cl2N3O2.1.5 HCl: Calculated: C, 60.64; H, 6.07; N, 6.84; Found: C, 60.98; H, 5.91; N, 6.75.

reactant | 3-(3,4-Dichlorophenyl)-3-(2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde | 0.375 g | ClC=1C=C(C=CC1Cl)C(CC=O)C1N(C(C2=CC=CC=C12)=O)C | C18H15Cl2NO2
reactant | 4-acetamido-4-phenylpiperidine | 0.28 g | C(C)(=O)NC1(CCNCC1)C1=CC=CC=C1 | C13H18N2O
product | 3-[1-(3,4-Dichlorophenyl)-3-(4-acetamido-4-Phenylpiperidino)propyl]-2-methyl-2,3-dihydroisoindol-1-one hydrochloride | 0.263 g | Cl.ClC=1C=C(C=CC1Cl)C(CCN1CCC(CC1)(C1=CC=CC=C1)NC(C)=O)C1N(C(C2=CC=CC=C12)=O)C | InChI=1S/C31H33Cl2N3O2.ClH/c1-21(37)34-31(23-8-4-3-5-9-23)15-18-36(19-16-31)17-14-24(22-12-13-27(32)28(33)20-22)29-25-10-6-7-11-26(25)30(38)35(29)2;/h3-13,20,24,29H,14-19H2,1-2H3,(H,34,37);1H
